US05753671
Methylbromoacetate (2,75 g, 18 mmol) was added dropwise to a solution of benzhydrylpiperazin (4.5 g, 18 mmol) in THF (150 ml). The reaction was stirred for 30 minutes at room temperature and a white precipitate formed. THF was removed under reduced pressure and the residue partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic layer was washed with saturated sodium bicarbonate solution and water before drying over magnesium sulphate, filtration and removal of solvent to leave (4-benzhydrylpiperazin-1-yl)-acetic acid, methyl ester as a pale brown oil (2.80 g, 48%).

reactant | Methylbromoacetate | 18 mmol, 2,75 g | COC(CBr)=O | C3H5BrO2
reactant | benzhydrylpiperazin | 18 mmol, 4.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (4-benzhydrylpiperazin-1-yl)-acetic acid, methyl ester | 2.80 g, 48% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC(=O)OC | C20H24N2O2
